### PR TITLE
Chore: Prove BitStream.neg_neg

### PR DESCRIPTION
**Pull request by AtticusKuhn**
See
https://github.com/opencompl/lean-mlir/pull/554#issuecomment-2301951442
for more information.

This PR proves that 

```lean
BitStream.neg_neg {a : BitStream} : a = - -a
```

### CODE REVIEW

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 1]
```diff
@@ -367,6 +367,25 @@ variable {w : Nat} {x y : BitVec w} {a b a' b' : BitStream}
...
+
+theorem neg_neg : a = - - a := by
+  ext i
+  have neg_lemma :
+    a.neg.negAux i = ⟨a i, (a.negAux i).2⟩ := by
+    induction' i with i ih
+    · simp [neg, negAux]
+    · simp [neg, negAux, ih, xor_xor_eq_not, xor_and_eq_and]
+  simp [Neg.neg,neg,negAux,neg_lemma]
+
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
  simp [Neg.neg, neg,negAux, neg_lemma]

```

**Review by tobiasgrosser — APPROVED** [review]
Otherwise this looks good to me.

**Comment by AtticusKuhn** [comment]
Great. Thanks for your feedback.
